US06831080B2
Preparation of (S)-{4-[3-(1-Amino-ethyl)-phenyl]-morpholin-2-ylmethyl}-carbamic acid tert-butyl ester
The mixture of (S)-(1-{3-[2-(tert-butoxycarbonylaminomethyl)-morpholin-4-yl]-phenyl}-ethyl)-carbamic acid benzyl ester (600 mg, 1.3 mmol), palladium on C (10 wt %) (300 mg), and methanol (10 ml) was put onto hydrogenator and shaken at 50 psi of hydrogen for 2 days and one night. The mixture was filtered through Celite pad and washed with methanol. The filtrate was concentrated under vacuum. The sticky oil (89% yield) was used for next step without purification.

reactant | (S)-(1-{3-[2-(tert-butoxycarbonylaminomethyl)-morpholin-4-yl]-phenyl}-ethyl)-carbamic acid benzyl ester | 1.3 mmol, 600 mg | C(C1=CC=CC=C1)OC(N[C@@H](C)C1=CC(=CC=C1)N1CC(OCC1)CNC(=O)OC(C)(C)C)=O | C26H35N3O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | (S)-{4-[3-(1-Amino-ethyl)-phenyl]-morpholin-2-ylmethyl}-carbamic acid tert-butyl ester | 89% yield | C(C)(C)(C)OC(NC[C@H]1CN(CCO1)C1=CC(=CC=C1)C(C)N)=O | C18H29N3O3
